US06506901B2
Step B: t-Butyl-[4-hydroxyphenoxy]-diphenylsilane
A mixture of t-butyl-[4-benzyloxyphenoxy]-diphenylsilane (170 g, 388 mmol) and 10 g of 10% palladium on carbon in ethanol-cyclohexene (2:1, v/v) was heated at reflux for 48 hours. The catalyst was filtered and the solvent was removed in vacuo to provide 134 g of product as an oil.

reactant | t-butyl-[4-benzyloxyphenoxy]-diphenylsilane | 388 mmol, 170 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H30O2Si
catalyst | palladium on carbon | 10 g | [Pd] | Pd
solvent | ethanol cyclohexene | C(C)O.C1=CCCCC1
product | t-Butyl-[4-hydroxyphenoxy]-diphenylsilane | 134 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C22H24O2Si
